US04589905
A hot solution of 5.61 g of potassium hydroxide dissolved in 110 ml of 3A ethanol was added to a hot solution of 11.3 g of 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester dissolved in 225 ml of 3A ethanol. The precipitated salt that was formed was dissolved into 1 liter of water and the solution was acidified with concentrated hydrochloric acid. The precipitated solid was collected by filtraton and recrystallized from toluene to provide 8.47 g of 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid. MP=192°-195° C.

reactant | potassium hydroxide | 5.61 g | [OH-].[K+]
reactant | 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 11.3 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Cl)C(=O)OCC | C13H10ClN3O2
reactant | water | 1 liter | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid | 8.47 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Cl)C(=O)O | C11H6ClN3O2
